US05002942
2-Amino-6-benzylbenzothiazole
11.2 ml of bromine were added dropWise to a solution of 39.7 g of 4-benzylaniline and 33 g of ammonium thiocyanate in 400 ml of acetic acid at a temperature of from 12 to 18° C. After completion of the addition, the mixture was stirred at room temperature for 2 hours and then the solvent was distilled off. The residue was mixed with 600 ml of ethyl acetate and 300 ml of water and the mixture was neutralized by the addition of potassium carbonate powder The ethyl acetate layer was separated, washed with an aqueous solution of sodium chloride, dried over anhydrous magnesium sulfate and concentrated by evaporation under reduced pressure. The residual solid was recrystallized from ethyl acetate to give 37.6 g of the title compound melting at 173-175° C.

reactant | bromine | 11.2 ml | BrBr | Br2
reactant | 4-benzylaniline | 39.7 g | C(C1=CC=CC=C1)C1=CC=C(N)C=C1 | C13H13N
reactant | ammonium thiocyanate | 33 g | [S-]C#N.[NH4+]
solvent | acetic acid | 400 ml | C(C)(=O)O | C2H4O2
product | 2-Amino-6-benzylbenzothiazole | 37.6 g | NC=1SC2=C(N1)C=CC(=C2)CC2=CC=CC=C2 | C14H12N2S
